US08034811B2
2-[(6-Methoxy-pyridin-3-ylmethyl)-amino]-benzoic acid
Prepared by a similar procedure as described for preparation 1A, starting from anthranilic acid and 2-methoxypyridine-5-carboxaldehyde (Aldrich). 13C-NMR (DMSO-d6) δ 169.9, 162.9, 150.4, 145.7, 138.6, 134.4, 131.7, 127.7, 114.7, 111.7, 110.5, 110.5, 53.1, 42.8.

reactant | anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | 2-methoxypyridine-5-carboxaldehyde | COC1=NC=C(C=C1)C=O | C7H7NO2
product | 2-[(6-Methoxy-pyridin-3-ylmethyl)-amino]-benzoic acid | COC1=CC=C(C=N1)CNC1=C(C(=O)O)C=CC=C1 | C14H14N2O3
